Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Valium / Penicillins / Omeprazole Sodium / Lisinopril 
/ mango / papaya
 
Attending: ___
 
Chief Complaint:
Abdominal and flank pain

 
Major Surgical or Invasive Procedure:
___ Diagnostic Paracentesis ___
___ Therapeutic Paracentesis ___

 
History of Present Illness:
___ y/o female w/ a PMHx of HCV (genotype 1a) and EtOH cirrhosis
(child's class B) c/b ascites, esophageal varices, and hepatic
encephalopathy, hx polysubstance abuse, COPD, HTN, and HLD who
presents with abdominal and flank pain for the last 1 week.
Patient was getting her weekly therapeutic paracentesis earlier
today when she had sudden onset of bilateral flank pain. 5L of
fluid were removed. Also describes diffuse abdominal pain and
endorses nausea, but denies vomiting, fevers, cough, chest pain. 


Patient had recent admission and was discharged on ___ for
abdominal pain and FTT and had large volume paracentesis with no
evidence of SBP, s/p EGD showing grade II esophageal varices and
portal hypertensive gastropathy, s/p NJ tube placement, who was
started on tube feeds prior to discharge. 

In the ED:

Initial vital signs were notable for:
T 98.5 HR 78 BP 121/55 RR 16 O2 sat 100% on RA

Exam notable for:
L CVAT
soft, distended, diffuse abd tenderness

Labs were notable for:
- UA with mod leuk, tr protein, urobili 2   
- Lactate:1.3
- CBC with Hgb 8.0, platelets 67 
- Chem 7: ___
- ALT 14, AST 27, Alk phod 143, Tbili 1.2, albumin 3.7
- AFP 8.6
- Lipase 44

Studies performed include:
- CT A/P:
1. Stable mild prominence of the left biliary intrahepatic ducts
and dilatation of the common bile duct status post
cholecystectomy. No evidence to suggest acute biliary
obstruction.
2. Cirrhotic appearing liver with sequelae of portal 
hypertension
including small to moderate volume ascites, persistent
splenomegaly, esophageal, gastrohepatic, and perirectal varices.
Patent portal and splenic veins.
3. 4-mm hyper enhanced right hepatic lobe lesion is incompletely
evaluated. This could be further evaluated with MRI with 
contrast
in 3 to 6 months.
4. Splenic infarcts appear chronic.
5. Small fat containing ventral hernia.

- CXR without acute process.

Patient was given:
- IV HYDROmorphone (Dilaudid) 0.5 mg 

Consults: Hepatology

Vitals on transfer:
T 98.3 HR 80 BP 112/52 RR 19 O2 sat 98% RA 
 
Upon arrival to the floor, she is still endorsing ongoing 
diffuse
abdominal and "kidney" pain. Does not think she is more 
confused.
Ongoing nausea but denies vomiting as above. Is unsure if she 
has
had any bleeding episodes. Noticed that her urine may have been
red over the past couples days, however more normal color now.

Review of Systems:
==================
Complete ROS obtained and is otherwise negative.
 
Past Medical History:
HCV - genotype 1a decompensated with h/o ascites; liver biopsy 
in ___ showed stage ___ fibrosis 
EtOH cirrhosis (Child's Class B) c/b ascites, esophageal 
varices,
HE
Hypertension
Hyperlipidemia
COPD
Alcohol abuse
Depression
Cocaine abuse
Tobacco abuse
Breast pain
Abdominal pain
Cervical spondylosis
L subclavian stenosis
Peripheral vascular disease
GERD s/p lap fundoplication and hiatal hernia repair ___
s/p cholecystectomy
s/p R inguinal hernia repair 
 
Social History:
___
Family History:
Mom had DM, CAD (COD), and was in a wheelchair for neuropathy.
Father had alcoholism and rectal CA (COD).
Sister has mental illness, also hx of falls. 
Siblings: 1 brother neonatal death, 1 brother death at 3 months, 

1 brother sudden death in ___.
 
Physical Exam:
ADMIT EXAM
==========
VITALS: 24 HR Data (last updated ___ @ 019)
Temp: 97.4 (Tm 98.2), BP: 134/70 (131-134/68-70), HR: 89
(72-89), RR: 18, O2 sat: 94% (94-96), O2 delivery: Ra, Wt: 113.3
lb/51.39 kg  
GENERAL: Alert and oriented to person, place, and time. Appears 
mildly uncomfortable ___ pain. Cachectic.
HEENT: N-J tube in place. Sclera anicteric, pupils round and 
reactive to light, no sub lingual jaundice. Oropharynx clear 
without exudate. Poor dentition.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally w/appropriate breath 
sounds appreciated in all fields. No wheezes, rhonchi or rales. 
No increased work of breathing.
ABDOMEN: +CVA tenderness bilaterally. Diffusely tender to 
palpation. RUQ tenderness greater compared to other quadrants. 
voluntary guarding.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally.
SKIN: Palmar erythema bilaterally. No jaundice or other stigmata 
of liver disease.
NEUROLOGIC: No asterixis. ___ strength throughout. Normal 
sensation.

DISCHARGE EXAM
==============
VS:98.3 ___
GENERAL: Alert, oriented, NAD, Cachectic.
HEENT: N-J tube in place w/TFs running. Sclera anicteric
NECK: Mild JVD
CARDIAC: RRR, s1/s2, no mgr
LUNGS: ctabl no w/c/r
ABDOMEN: +flank ttp, +tympany, +ttp throughout, +ventral 
protuberance, +guarding, no rebound. +caput medusa 
EXTREMITIES: No ___ edema b/l
SKIN: Palmar erythema bilaterally
NEUROLOGIC: Grossly non-focal, no asterixis, +baseline tremor 
b/l
 
Pertinent Results:
ADMIT LABS
==========
___ 01:15PM BLOOD WBC-4.0 RBC-2.58* Hgb-8.0* Hct-24.3* 
MCV-94 MCH-31.0 MCHC-32.9 RDW-18.1* RDWSD-61.6* Plt Ct-67*
___ 01:15PM BLOOD Neuts-75.6* Lymphs-11.5* Monos-11.5 
Eos-0.7* Baso-0.2 Im ___ AbsNeut-3.03 AbsLymp-0.46* 
AbsMono-0.46 AbsEos-0.03* AbsBaso-0.01
___ 01:15PM BLOOD ___
___ 01:15PM BLOOD Glucose-165* UreaN-22* Creat-0.6 Na-135 
K-4.2 Cl-101 HCO3-21* AnGap-13
___ 01:15PM BLOOD ALT-14 AST-27 AlkPhos-143* TotBili-1.2
___ 01:15PM BLOOD Lipase-44
___ 08:00AM BLOOD Albumin-3.0*
___ 08:00AM BLOOD AFP-8.6
___ 01:25PM BLOOD Lactate-1.3
___ 03:00PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-7.5 Leuks-MOD*
___ 03:00PM URINE RBC-1 WBC-2 Bacteri-NONE Yeast-NONE Epi-3

MICRO
=====

IMAGING
=======
CXR ___
No acute cardiopulmonary abnormality.

CT A/P ___. Stable mild prominence of the left biliary intrahepatic ducts 
and
dilatation of the common bile duct status post cholecystectomy.  
No evidence
to suggest acute biliary obstruction.
2. Cirrhotic appearing liver with sequelae of portal 
hypertension including
small to moderate volume ascites, persistent splenomegaly, 
esophageal,
gastrohepatic, and perirectal varices.  Patent portal and 
splenic veins.
3. 4-mm hyper enhanced right hepatic lobe lesion is incompletely 
evaluated. 
This could be further evaluated with MRI with contrast in 3 to 6 
months.
4. Splenic infarcts appear chronic.
5. Small fat containing ventral hernia.

KUB ___
Dobhoff tube positioning appears similar when compared to the 
scout image from
the previous CT scan from ___

EGD ___
Varices in distal esophagus
Congestion, petechiae, and mosaic mucosal pattern in the stomach 
fundus and stomach body compatible with portal HTN gastropathy
Normal mucosa in the whole examined duodenum
An NJT was placed passed the third portion of the duodenum. The 
tube was moved the mouth into the nose and bridled at 120cm. The 
flushed w/o difficulty.

DISCHARGE LABS
==============
___ 05:16AM BLOOD WBC-4.4 RBC-2.33* Hgb-7.2* Hct-22.5* 
MCV-97 MCH-30.9 MCHC-32.0 RDW-17.8* RDWSD-63.1* Plt Ct-83*
___ 05:16AM BLOOD ___
___ 05:16AM BLOOD Glucose-177* UreaN-22* Creat-0.8 Na-140 
K-3.7 Cl-102 HCO3-23 AnGap-15
___ 05:16AM BLOOD ALT-20 AST-43* LD(LDH)-247 AlkPhos-123* 
TotBili-0.8
___ 05:16AM BLOOD Albumin-3.7 Calcium-8.5 Phos-3.4 Mg-2.2

MICRO
=====
___ 1:55 pm PERITONEAL FLUID      PERITONEAL FLUID. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 
__________________________________________________________
___ 3:00 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
__________________________________________________________
___ 1:00 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
 
Brief Hospital Course:
Ms. ___ is a ___ female with HCV (genotype 1a) and 
EtOH cirrhosis (child's class B) c/b ascites, esophage varices, 
and hepatic encephalopathy, hx polysubstance abuse, COPD, HTN, 
and HLD who presented with abdominal pain and flank pain in 
setting of large volume paracentesis. Pt empirically treated 
with CTX for SBP, though repeat diagnostic para w/o c/f SBP. CT 
A/P without signs of new abdominal process. Palliative care 
consulted, started on ___ for new abdominal pain in 
conjunction with Hepatologist. NJT clogged over admission, 
replaced via EGD on ___.

#Abdominal pain
#Flank pain
Presented with acute on chronic abdominal and flank pain s/p 
large volume paracentesis. Likely ___ ascites, also with midline 
hernias, reducible no evidence of strangulation or 
incarceration. CT scan negative for obstruction (bowel or 
biliary), pyelonephritis, or other acute pathology to explain 
her abdominal pain. Pain most likely explained by her 
ascites/abdominal distention, recent admission for similar issue 
though per pt is now more severe though of same quality. s/p 
albumin + CTX for empiric SBP, peritoneal fluid w/o signs of 
SBP. Palliative care consulted for assistance with pain 
management, trialed MS-Contin but thought given leg cramps, 
transitioned to ___ 15mg q4h:prn, max 4x tabs per day. Also 
given Lido TD.

#Hyperglycemia: Pt noted to have elevated FSGs while on TFs 
requiring insulin HISS. Would be hesitant to Rx PO 
anti-glyecmics ___ frail state/severe dz. Will likely require 
low dose long acting insulin on DC. A1c<6.5, though Hb ~7. 
___ consulted, recommended home FSG monitoring with close 
___ f/u next week (apt scheduled) for consideration of 
initiation of NPH, no DM meds on DC. Underwent ___ Diabetes 
education on glucometer use.

#___
Patient met with outpatient Hepatologist Dr ___ 
___ care on ___ to discuss next steps. Please refer to 
___ care note for details, though currently plan is to c/w TFs 
and Epclusa to treat pt's HCV with hope that Dz process will 
improve, though pt aware that she's living with chronic Dz that 
may be life-limiting. Per Hepatologist, NJT replaced on ___ 
after being clogged. Will also f/u with palliative care as 
outpatient 

#HCV/alcohol cirrhosis (Child's B)
C/b ascites requiring weekly paracentesis, HE, esophageal 
varices (+perirectal varices on imaging), portal hypertensive 
gastropathy. Was also on Epclusa for HCV which she is to take 
for a total of 24 weeks. c/w home Epclusa, lactulose 30ml TID, 
rifaximin 550 BID. Palliative care consulted per above. Acute HE 
episode per below quickly resolved.

#Protein-calorie malnutrition: she is significantly cachectic. 
Currently on cycled tube feeds overnight, briefly held while 
dobhoff clogged, replaced on ___ and TFs restarted. Continued 
folic acid and zinc, thiamine, MV with minerals. Pt to continue 
zinc until ___, copper levels low, can consider ___ repletion.

#COPD: continued home fluticasone-salmeterol diskus, tiotropium, 
albuterol PRN 

#GERD: Continued home pantoprazole 40mg daily 

#HLD: Continued home simvastatin 20mg 

#L adenexal mass: Prior transitional issue: Had elevated ___ 
from prior admission. Per prior OMR note, initially planned for 
gyn-onc f/u, however pt called as thought to be pcp vs gyn 
issue, pt prefer to f/u for PCP for repeat ___, consider 
pelvic u/s.

#Depression: continued home sertraline

RESOLVED ISSUE
==============
# Acute Hepatic Encephalopathy:
There were c/f HE on ___ though w/o asterixis and briefly given 
high dose lactulose, episode quickly resolved

TRANSITIONAL ISSUES
===================
-Pt started on Morphine ___ 15mg q4h:prn with max 4x tabs per day 
after discussions with palliative care and outpatient 
hepatology, also started on Lido TD for pain
-Pt noted to have new hyperglycemia while on TFs, ___ 
consulted, will check FSGs as outpatient with close outpatient 
f/u next wk with ___, underwent DM education prior to ___ with 
___, no DM meds for now upon DC per ___
-Please check CBC on ___ outpatient PCP appointment 
-___ continue ___ discussions as outpatient, seen by pall 
care and to follow with pall care as outpatient 
-Please check ___ at PCP apt per prior DC summary, Lt adnexal 
mass/elevated ___ f/u to be managed by PCP per pt preference, 
no need for gyn-onc apt 
-Pt continued on TFs, NJT replaced on ___ after clogging
-Pt to continue Zinc repletion until ___ per nutrition recs
-Pt with low copper levels, can consider repletion as outpatient
-To c/w cycled TFs overnight
-Pt to c/w weekly LVPs, though of note last LVP with only 750cc 
ascites fluid, home PO Lasix 40 briefly held over admission, to 
be continued on DC

# DC WEIGHT: 52.21kg 115.1 lbs
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing 
2. Aspirin 81 mg PO DAILY 
3. Epclusa (sofosbuvir-velpatasvir) 400-100 mg oral Daily 
4. Escitalopram Oxalate 10 mg PO DAILY 
5. Fluticasone Propionate NASAL 1 SPRY NU BID 
6. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
7. FoLIC Acid 1 mg PO DAILY 
8. Furosemide 40 mg PO DAILY 
9. HydrOXYzine 25 mg PO BID:PRN itch 
10. Lactulose 30 mL PO TID 
11. Multivitamins W/minerals 1 TAB PO DAILY 
12. Ondansetron ODT 4 mg PO Q8H:PRN nausea 
13. Pantoprazole 40 mg PO Q24H 
14. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
15. Rifaximin 550 mg PO BID 
16. Simethicone 40-80 mg PO QID:PRN gas 
17. Simvastatin 20 mg PO QPM 
18. Thiamine 100 mg PO DAILY 
19. Tiotropium Bromide 1 CAP IH DAILY 
20. Zinc Sulfate 220 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
2.  FreeStyle Lancets (lancets) 28 gauge miscellaneous ___ 
RX *lancets [FreeStyle Lancets] 28 gauge use as directed ___ 
times per day Disp #*100 Each Refills:*0 
3.  FreeStyle Lite Strips (blood sugar diagnostic)    
miscellaneous ___ 
RX *blood sugar diagnostic [FreeStyle Lite Strips]  use as 
directed ___ times per day Disp #*100 Strip Refills:*0 
4.  GuaiFENesin ER 600 mg PO Q12H 
RX *guaifenesin 600 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
5.  Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine 5 % apply as directed qAM Disp #*30 Patch 
Refills:*0 
6.  Morphine Sulfate ___ 15 mg PO Q4H:PRN Pain - Moderate 
RX *morphine 15 mg 1 tablet(s) by mouth q4h:prn Disp #*16 Tablet 
Refills:*0 
7.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing  
8.  Aspirin 81 mg PO DAILY  
9.  Epclusa (sofosbuvir-velpatasvir) 400-100 mg oral Daily  
10.  Escitalopram Oxalate 10 mg PO DAILY  
11.  Fluticasone Propionate NASAL 1 SPRY NU BID  
12.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
13.  FoLIC Acid 1 mg PO DAILY  
14.  Furosemide 40 mg PO DAILY  
15.  HydrOXYzine 25 mg PO BID:PRN itch  
16.  Lactulose 30 mL PO TID  
17.  Multivitamins W/minerals 1 TAB PO DAILY  
18.  Ondansetron ODT 4 mg PO Q8H:PRN nausea  
19.  Pantoprazole 40 mg PO Q24H  
20.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
21.  Rifaximin 550 mg PO BID  
22.  Simethicone 40-80 mg PO QID:PRN gas  
23.  Simvastatin 20 mg PO QPM  
24.  Thiamine 100 mg PO DAILY  
25.  Tiotropium Bromide 1 CAP IH DAILY  
26.  Zinc Sulfate 220 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY
=======
Abdominal Pain
HCV Cirrhosis

SECONDARY
==========
COPD
GERD
HLD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms ___,

You were admitted to ___ after you had worsening 
abdominal pain associated with your paracentesis. There were no 
signs of infection or explanation for your pain on CT-imaging 
and from your belly fluid. We had our palliative care 
specialists evaluate you to help us with pain management and 
with discussions about your overall care plan going forward.

It was a pleasure taking care of you!

Your ___ Liver Team
 
Followup Instructions:
___